US07319099B2
Preparation of 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone O-methyl-oxime
0.12 mmol of 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone was dissolved in 1 ml of a 1:1 mixture of ethanol and water. 0.8 mmol of O-methyl-hydroxylamine hydrochloride was added, followed by 8.4 mmol of sodium acetate. The slurry was stirred overnight at room temperature, diluted with water, extracted with ethyl acetate, dried and concentrated. The resulting gum was triturated with diethyl ether/heptane to yield the title compound as a colorless solid. MS (m/e): 492.3 (MH+, 100%)

reactant | 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone | 0.12 mmol | FC=1C=C(C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C)=O)C(C)=O | C23H27FN2O5S
reactant | O-methyl-hydroxylamine hydrochloride | 0.8 mmol | Cl.CON
reactant | sodium acetate | 8.4 mmol | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone O-methyl-oxime | CON=C(C)C1=CC(=C(C=C1)N1CCN(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C)=O)F | C24H30FN3O5S
